* C:\Users\Tom\Documents\LEGO STEM\ElectromagnetLego\LTSpice Simulation\PWMMFETSimulation.asc
M1 N001 N002 0 0 IPP052NE7N3
R1 P001 N001 2.5
L1 R_SENSE_L P001 34m
D1 N001 R_SENSE_H MBR735
V1 V_SUPPLY 0 12
L2 V_SUPPLY R_SENSE_H 1n
R2 N002 PWM_IN 63
R3 0 PWM_IN 10K
V2 PWM_IN 0 PULSE(0 5 0 0 0 0.00005 0.0001 1000)
R4 R_SENSE_H R_SENSE_L 0.007
.model D D
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.mos
* Line Inductance
* Electromagnet
* 10Khz PWM
.tran 0.2
.backanno
.end
