* C:\Users\Tom\Documents\LEGO STEM\ElectromagnetLego\LTSpice Simulation\PWMMFETSimulation.asc
M1 N001 N002 0 0 IPP052NE7N3
R1 P001 N001 5
L1 R_SENSE_L P001 17m
D1 N001 R_SENSE_H MBR735
V1 P002 0 12
R2 N002 PWM_IN 63
R3 0 PWM_IN 10K
V2 PWM_IN 0 PULSE(0 5 0 0 0 0.0005 0.001 1000)
R4 R_SENSE_H R_SENSE_L 0.007
L3 V_SUPPLY P002 1n
C1 R_SENSE_H 0 470µ
L2 V_SUPPLY R_SENSE_H 1n
.model D D
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.mos
* Electromagnet
* 1Khz PWM
.tran 0 0.02 0.01
.backanno
.end
